US07544702B2
To a solution of 4-nitrobenzenesulfonyl chloride 40 g 0.181 mole in dichloromethane 400 ml was added over 30 mins a solution of pyridine 15 g 15.3 ml and piperidine 16.15 g 18.8 ml in dichloromethane 100 ml. The mixture was stirred at room temperature for 2 h and then washed with water, 2M hydrochloric acid and brine, dried MgSO4 and evaporated in vacuo to give 1-(4-nitro-benzenesulfonyl)-piperidine 44.5 g. 1H NMR CDCl3 7.76 (2H, d), 7.40 (2H, d), 3.21 (6H, q), 1.07 (6H, t).

reactant | 4-nitrobenzenesulfonyl chloride | 0.181 mole, 40 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | pyridine | 15.3 ml, 15 g | N1=CC=CC=C1 | C5H5N
reactant | piperidine | 18.8 ml, 16.15 g | N1CCCCC1 | C5H11N
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 1-(4-nitro-benzenesulfonyl)-piperidine | 44.5 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)N1CCCCC1 | C11H14N2O4S
